US05252610
To a solution of 0.07 g of sodium hydride (60% oil dispersion) in 10 ml of N,N-dimethylformamide, there was added dropwise a solution of 0.40 g of 2-chloro-4-(3-chlorophenoxy)phenol in 3 ml of N,N-dimethylformamide with stirring and ice-cooling. After 10 minutes, a solution of 0.25 g of p-chlorobenzyl chloride in 5 ml of N,N-dimethylformamide was added thereto at room temperature, followed by stirring at the same temperature for 10 hours. The reaction mixture was poured into ice-water and extracted twice with 100 ml of ethyl acetate. The extracts were combined together, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 0.48 g of 4-chloro-1-[2-chloro-4-(3-chlorophenoxy)phenoxy]methylbenzene. Yield, 81%. m.p., 72.1° C.

reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | 2-chloro-4-(3-chlorophenoxy)phenol | 0.40 g | ClC1=C(C=CC(=C1)OC1=CC(=CC=C1)Cl)O | C12H8Cl2O2
reactant | p-chlorobenzyl chloride | 0.25 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-chloro-1-[2-chloro-4-(3-chlorophenoxy)phenoxy]methylbenzene | 0.48 g | ClC1=CC=C(C=C1)COC1=C(C=C(C=C1)OC1=CC(=CC=C1)Cl)Cl | C19H13Cl3O2
